US05103013
Isopropyl 2-(1,3-dithietan-2-ylidene)-2-[N-(4-trifluoromethylphenyl)carbamoyl]acetate
Following the procedure of Example 18, the titled compound was prepared as a white solid (67%) from isopropyl 2-(1,3-dithietan-2-ylidene)-2-(ethoxycarboxycarbonyl)acetate and 4-aminobenzotrifluoride.

reactant | isopropyl 2-(1,3-dithietan-2-ylidene)-2-(ethoxycarboxycarbonyl)acetate | S1C(SC1)=C(C(=O)OC(C)C)C(=O)C(=O)OOCC | C11H14O6S2
reactant | 4-aminobenzotrifluoride | NC1=CC=C(C=C1)C(F)(F)F | C7H6F3N
product | Isopropyl 2-(1,3-dithietan-2-ylidene)-2-[N-(4-trifluoromethylphenyl)carbamoyl]acetate | S1C(SC1)=C(C(=O)OC(C)C)C(NC1=CC=C(C=C1)C(F)(F)F)=O | C15H14F3NO3S2
